US06670447B2
Synthesis of N-decanoyl-L-alanyl-L-phenylalanine methyl ester (Compound No. 37)
L-Phenylalanine methyl ester hydrochloride (259 mg, 1.2 mmol) was suspended in tetrahydrofuran (6 mL), followed by the addition of N-methylmorpholine (121 mg, 1.2 mmol) at 0° C. The resulting mixture was stirred for 20 minutes. (S)-3-Decanoyl-4-methyl-2,5-oxazolidinedione (N-decanoyl-L-alanine-NCA) (270 mg, 1 mmol) was added as crystals at 0° C., followed by stirring for 5 minutes. The mixture was allowed to rise in temperature to room temperature, at which the mixture was stirred for 30 minutes. The reaction mixture was treated in a similar manner as in Example 19 to afford the title compound (289 mg, 71%) as white crystals.

reactant | L-Phenylalanine methyl ester hydrochloride | 1.2 mmol, 259 mg | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | N-methylmorpholine | 1.2 mmol, 121 mg | CN1CCOCC1 | C5H11NO
reactant | (S)-3-Decanoyl-4-methyl-2,5-oxazolidinedione | 1 mmol, 270 mg | C(CCCCCCCCC)(=O)N1C(OC([C@@H]1C)=O)=O | C14H23NO4
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | N-decanoyl-L-alanyl-L-phenylalanine methyl ester | 289 mg, 71% | COC([C@@H](NC([C@@H](NC(CCCCCCCCC)=O)C)=O)CC1=CC=CC=C1)=O | C23H36N2O4
